US06503949B1
To a solution of 3-methylsulfonyl benzyl alcohol (3.5 g, 28.6 mmol) in dichloromethane (50 mL) was added pyridinium chloro chromate (PCC) (9.1 g, 42.2 mmol). The mixture was stirred at room temperature for 3 hours. After workup and column chromatography on silica gel eluting with hexane:ethyl acetate, 1:1, 3-methylsulfonylbenzaldehyde was obtained as white solid.

reactant | 3-methylsulfonyl benzyl alcohol | 28.6 mmol, 3.5 g | CS(=O)(=O)C=1C=C(CO)C=CC1 | C8H10O3S
reactant | pyridinium chloro chromate | 42.2 mmol, 9.1 g | [Cr](=O)(=O)(OCl)[O-].[NH+]1=CC=CC=C1
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-methylsulfonylbenzaldehyde | CS(=O)(=O)C=1C=C(C=O)C=CC1 | C8H8O3S
